US06858627B2
A mixture of 0.037 mL of 2-bromophenethyl alcohol and 1 mL of DMSO was treated with 0.277 mL of 1.0 M sodium bis(trimethylsilyl)amide, then 86 mg of 4-(1-methanesulfonyloxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester in 1 mL DMSO was added at room temperature. The reaction mixture was allowed to stir at room temperature overnight. TLC showed starting material was consumed. The reaction was quenched with water and the product was extracted with EtOAc three times. The organic layers were combined, washed sequentially with saturated aqueous ammonium chloride solution, saturated aqueous sodium bicarbonate solution, water, and brine, dried over magnesium sulfate, and the solvent evaporated in vacuo. The residue was purified by flash chromatography to yield 37 mg of 4-{1-[2-(2-bromophenyl)ethoxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester as an oil.

reactant | 2-bromophenethyl alcohol | 0.037 mL | BrC1=C(CCO)C=CC=C1 | C8H9BrO
reactant | sodium bis(trimethylsilyl)amide | 1.0 M, 0.277 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-(1-methanesulfonyloxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 86 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)OS(=O)(=O)C)(C)C | C26H33NO6S
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-{1-[2-(2-bromophenyl)ethoxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 37 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)OCCC1=C(C=CC=C1)Br)(C)C | C33H38BrNO4
